US07368578B2
To a mixture of 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazole-5-carbaldehyde (1.0 g), ethyl diethylphosphonoacetate (0.52 g) and N,N-dimethylformamide (30 mL) was added sodium hydride (60% in oil, 0.10 g) under ice-cooling, and the mixture was stirred at room temperature for 15 hrs. The reaction mixture was poured into ice water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give ethyl (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-5-yl}-2-propenoate as colorless crystals (0.87 g, yield 74%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 127-128° C.

reactant | 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazole-5-carbaldehyde | 1.0 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C(=C2)C=O)C2=CC=CC=C2)C=C1)OC)C | C27H23N3O6
reactant | ethyl diethylphosphonoacetate | 0.52 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 0.10 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | ethyl (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-5-yl}-2-propenoate | 0.87 g, yield 74% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C(=C2)/C=C/C(=O)OCC)C2=CC=CC=C2)C=C1)OC)C | C31H29N3O7
